US04379166
5-(2-AMINO-1-HYDROXYETHYL)SALICYLAMIDE
To 5-[2-(dibenzylamino)acetyl]salicylamide (75.0 g, 0.200 mmol) and acetic acid (24.0 g, 0.40 mmol) in 1.0 liter methanol, add 5% palladium/carbon (40.0 g). Hydrogenate at 3 atmospheres for 16 hours. Filter the catalyst, concentrate slightly and adjust the volume to give a solution of the title compound of the desired molarity.

reactant | 5-[2-(dibenzylamino)acetyl]salicylamide | 0.200 mmol, 75.0 g | C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C(C(=O)N)=C1)O)CC1=CC=CC=C1 | C23H22N2O3
reactant | acetic acid | 0.40 mmol, 24.0 g | C(C)(=O)O | C2H4O2
solvent | methanol | 1.0 liter | CO | CH4O
catalyst | palladium/carbon | 40.0 g | [Pd] | Pd
product | 5-(2-AMINO-1-HYDROXYETHYL)SALICYLAMIDE | NCC(O)C1=CC=C(C(C(=O)N)=C1)O | C9H12N2O3
